US20010018525A1
To a solution of N-(8-phenyl-octyl)-3-bromo-5-(m-trifluoromethylphenyl)4-(2-hydroxyethoxy)-benzamide (0.687 g, 1.16 mmol, 1 eq) in THF (10 mL) was added triphenylphosphine (0.680 g, 2.59 mmol, 2.23 eq) and methyl 2,4 dihydroxybenzoate (0.388 g, 2.30 mmol, 2.0 eq). The reaction was cooled to 0° C. and diethyl azodicarboxylate (0.220 mL, 1.40 mmol, 1.2 eq) was added. The cold bath was removed and the reaction was stirred overnight at rt. The reaction mixture was then poured into 0.1 N HCl solution and extracted with EtOAc. The combined organic layers were washed with brine, dried over MgSO4 and concentrated in vacuo. The residue was purified by flash chromatography (20% EtOAc:hexane) to afford 4-{2-[3-Bromo-5-(8-phenyl-octylcarbamoyl)-3′-trifluoromethyl-biphenyl-2-yloxy]-ethoxy}-2-hydroxy-benzoic acid methyl ester 1H NMR (CDCl3) δ11.90 (s, 1H); 7.97 (d, 1H); 7.84-7.50 (m, 6H); 7.28-7.12 (m, 5H); 6.40 (m, 1H); 6.24 (m, 1H); 6.10 (bt, 1H); 4.12 (dd, 2H); 4.00 (m, 2H); 3.92 (s, 3H); 3.45 (dd, 2H); 2.59 (t, 2H); 1.60 (m, 4H); 1.33 (m, 8H).

reactant | N-(8-phenyl-octyl)-3-bromo-5-(m-trifluoromethylphenyl)4-(2-hydroxyethoxy)-benzamide | 1.16 mmol, 0.687 g, 1 eq | C1(=CC=CC=C1)CCCCCCCCNC(C1=CC(=C(C(=C1)C1=CC(=CC=C1)C(F)(F)F)OCCO)Br)=O | C30H33BrF3NO3
reactant | triphenylphosphine | 2.59 mmol, 0.680 g, 2.23 eq | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | methyl 2,4 dihydroxybenzoate | 2.30 mmol, 0.388 g, 2.0 eq | OC1=C(C(=O)OC)C=CC(=C1)O | C8H8O4
reactant | diethyl azodicarboxylate | 1.40 mmol, 0.220 mL, 1.2 eq | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 4-{2-[3-Bromo-5-(8-phenyl-octylcarbamoyl)-3′-trifluoromethyl-biphenyl-2-yloxy]-ethoxy}-2-hydroxy-benzoic acid methyl ester | COC(C1=C(C=C(C=C1)OCCOC1=C(C=C(C=C1Br)C(NCCCCCCCCC1=CC=CC=C1)=O)C1=CC(=CC=C1)C(F)(F)F)O)=O | C38H39BrF3NO6
